US07915267B2
4′-[(2-hydroxy-3-methylbutyl)sulfonyl]biphenyl-3-carbonitrile
To a solution of 4′-(methylsulfonyl)biphenyl-3-carbonitrile obtained in Reference Example 102 (2.00 g, 7.77 mmol) in THF (40 mL) was added dropwise n-butyllithium (1.6M hexane solution, 5.34 mL, 8.55 mmol) at −78° C., and the mixture was stirred at −78° C. for 1 hr. Isobutyraldehyde (1.06 mL, 11.7 mmol) was added to this solution at −78° C., and the mixture was further stirred at −78° C. for 3 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, and washed with saturated sodium chloride aqueous solution. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (25%-50% ethyl acetate/hexane) to give the title compound as a pale-yellow oil (1.66 g, 65%).

reactant | 4′-(methylsulfonyl)biphenyl-3-carbonitrile | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C#N | C14H11NO2S
reactant | n-butyllithium | 8.55 mmol, 1.6M, 5.34 mL | C(CCC)[Li]
reactant | Isobutyraldehyde | 11.7 mmol, 1.06 mL | C(C(C)C)=O | C4H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4′-[(2-hydroxy-3-methylbutyl)sulfonyl]biphenyl-3-carbonitrile | 1.66 g, 65% | OC(CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C#N)C(C)C | C18H19NO3S
